US04935432
To a stirred solution of 1-[2-[5-[3,5-dimethoxy-4-{(2-methoxyethoxy)methoxy}phenyl]-(2E,4E)-2,4-pentadienoylamino]ethyl]-4-(3-indolyl)piperidine (10.0 g) in methanol (100 ml) was added slowly methanesulfonic acid (2.3 ml) at ambient temperature. After stirring for 2 hours, the reaction mixture was adjusted to pH 7.2 with aqueous 2N sodium hydroxide solution, and poured into a solution of 4.5 g of sodium bicarbonate in 500 ml of water. After stirring for 30 minutes, the resulting precipitate was collected by filtration and washed with 100 ml of water. The residue was subjected to column chromatography on silica gel and eluted with a mixture of chloroform and methanol. The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was recrystallized from ethanol to give 1-[2-{5-(4-hydroxy-3,5-dimethoxyphenyl)-(2E,4E)-2,4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine (6.69 g).

reactant | 1-[2-[5-[3,5-dimethoxy-4-{(2-methoxyethoxy)methoxy}phenyl]-(2E,4E)-2,4-pentadienoylamino]ethyl]-4-(3-indolyl)piperidine | 10.0 g | COC=1C=C(C=C(C1OCOCCOC)OC)/C=C/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C32H41N3O6
reactant | methanesulfonic acid | 2.3 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium bicarbonate | 4.5 g | C([O-])(O)=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 1-[2-{5-(4-hydroxy-3,5-dimethoxyphenyl)-(2E,4E)-2,4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine | 6.69 g | OC1=C(C=C(C=C1OC)/C=C/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12)OC | C28H33N3O4
